US07148226B2
Preparation of Compound 2-[4-(2-Cyclopentyl-2-oxo-ethoxy)-2-fluoro-phenyl]-2-methyl-propionitrile
Potassium carbonate (3.1 g, 22 mmol) was added to a solution of 2-(2-Fluoro-4-hydroxy-phenyl)-2-methyl-propionitrile (1.0 g, 6.0 mmol) and 2-Chloro-1-cyclopentyl-ethanone (3.3 g, 22 mmol) in DMF (20 mL). The mixture was stirred at room temperature for 16 hours. The mixture was poured into water (100 mL) and extracted with EtOAc (2×50 mL). The organics were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography (0–15% EtOAc in hexanes) to give the product (1.2 g, 75% yield) as a clear oil. 1H NMR (300 MHz, CDCl3) δ: 1.57–1.93 (m, 14 H), 3.10 (m, 1 H), 4.64 (s, 2 H), 6.65 (d, J=9.6 Hz, 2 H), 7.37 (t, J=8.9 Hz, 1 H).

reactant | Potassium carbonate | 22 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-Fluoro-4-hydroxy-phenyl)-2-methyl-propionitrile | 6.0 mmol, 1.0 g | FC1=C(C=CC(=C1)O)C(C#N)(C)C | C10H10FNO
reactant | 2-Chloro-1-cyclopentyl-ethanone | 22 mmol, 3.3 g | ClCC(=O)C1CCCC1 | C7H11ClO
reactant | water | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-Cyclopentyl-2-oxo-ethoxy)-2-fluoro-phenyl]-2-methyl-propionitrile | 1.2 g, 75% yield | C1(CCCC1)C(COC1=CC(=C(C=C1)C(C#N)(C)C)F)=O | C17H20FNO2
